US05134128
4-(1-Acetoxynonyl)-5-octanoyloxy-2(5H)-furanone
Octanoyl chloride (83.6 μl, 0.49 mmol), followed by triethylamine (68.2 μl, 0.49 mmol), was added to 4-(1-acetoxynonyl)-5-hydroxy-2(5H)-furanone (132.6 mg, 0.47 mmol) in tetrahydrofuran (6 ml) at 0°. Stirring was continued for 14h while the ice bath attained room temperature. The mixture was diluted with water (10 ml) and extracted with dichloromethane. Evaporation of the dried (magnesium sulfate) extract gave a yellow oil, which was flash chromatographed on silica using 30% ethyl ether/petroleum ether. Fractions with Rf 0.38 on evaporation gave the title compound as a colorless oil.

reactant | Octanoyl chloride | 0.49 mmol, 83.6 μl | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | triethylamine | 0.49 mmol, 68.2 μl | C(C)N(CC)CC | C6H15N
reactant | 4-(1-acetoxynonyl)-5-hydroxy-2(5H)-furanone | 0.47 mmol, 132.6 mg | C(C)(=O)OC(CCCCCCCC)C1=CC(OC1O)=O | C15H24O5
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-(1-Acetoxynonyl)-5-octanoyloxy-2(5H)-furanone | C(C)(=O)OC(CCCCCCCC)C1=CC(OC1OC(CCCCCCC)=O)=O | C23H38O6
